US07635715B2
Step D: Preparation of Ethyl 6-chloro-1-(4-chlorophenyl)-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate
A solution of diethyl 2-(2,2-bis(4-chlorophenyl)propanoyl)malonate (2.00 g, 4.57 mmol) in H2SO4, 36N (10.0 mL, 180 mmol) in a 500 mL round bottom flask was stirred at 25° C. for 30 minutes. The reaction was quenched by adding 400 mL of ice and 100 mL of EtOAc and then stirring for 15 minutes. The layers were separated, and the aqueous solution was extracted with EtOAc (2×100 mL). The combined organic layers were washed with brine (100 mL). The organic layer was then dried over MgSO4 and concentrated in vacuo to give 2.24 g of crude product which was purified by flash column chromatography (silica, 0-100% DCM in hexane) to give the title compound (1.448 g). MS m/e=391 (M+H)+.

reactant | diethyl 2-(2,2-bis(4-chlorophenyl)propanoyl)malonate | 4.57 mmol, 2.00 g | ClC1=CC=C(C=C1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C1=CC=C(C=C1)Cl | C22H22Cl2O5
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
product | Ethyl 6-chloro-1-(4-chlorophenyl)-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate | 1.448 g | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C1=CC=C(C=C1)Cl)=O)C(=O)OCC)O | C20H16Cl2O4
